US07326791B2
(b) 3-chloro-4-(pyrrolidin-1-ylsulfonyl)benzoic acid
Prepared analogously to Example 1f from 3-chloro-4-(pyrrolidin-1-ylsulfonyl)benzonitrile and sodium hydroxide solution in ethanol. Yield: 89% of theory; C11H21ClNO4S (289.74); mass spectrum: (M+H)+=290/292 (chlorine isotope).

reactant | 3-chloro-4-(pyrrolidin-1-ylsulfonyl)benzonitrile | ClC=1C=C(C#N)C=CC1S(=O)(=O)N1CCCC1 | C11H11ClN2O2S
reactant | sodium hydroxide | [OH-].[Na+]
reactant | chlorine | ClCl | Cl2
reactant | ethanol | C(C)O | C2H6O
product | 3-chloro-4-(pyrrolidin-1-ylsulfonyl)benzoic acid | Yield: 89% | ClC=1C=C(C(=O)O)C=CC1S(=O)(=O)N1CCCC1 | C11H12ClNO4S
